US06313132B1
4.2 N,N-Diisopropyl-3-(2-trifluoromethylphenyl)-3-phenylpropenamide
A solution of diethyl N,N-diisopropylacetamide phosphonate (8.4 g, 30 mmol) in THF (20 mL) was added dropwise to sodium hydride (80%, 0.85 g, 29 mmol) during 30 min, keeping the temperature below 30° C. A solution of 2-trifluoromethyl-benzophenone (5.0 g, 20 mmol) in THF (20 mL) was added and the reaction mixture was heated to 50° C. and kept at that temperature for 16 h. A second portion of the phosphorous ylide (15 mmol), prepared as above, was added. After another 24 h at 50° C. the mixture was partioned between diethyl ether and water. The etheral layer was evaporated and the residue chromatographed on silica (toluene-ethyl acetate 9:1) yielding 3.0 g (41%) as a mixture of the E- and Z-isomers. Labels a and b refer to the different isomers. 1H NMR (CDCl3-d) δ0.80 (d, 6Ha), 1.08 (d, 3Hb), 1.24 (t, 6Hb), 1.31 (d, 3Hb), 1.44 (d, 6Ha), 3.32 (m, 1Ha), 3.34 (m, 1Hb), 4.19 (m, 1Hb), 4.32 (m, 1Ha), 6.04 (s, 1Ha), 6.65 (s, 1Hb) and 7.18-7.75 (m, 9Ha, 9Hb).

reactant | diethyl N,N-diisopropylacetamide phosphonate | 30 mmol, 8.4 g | P(O)(O)=O.C(C)C(C(=O)N(C(C)C)C(C)C)CC
reactant | sodium hydride | 29 mmol, 0.85 g | [H-].[Na+]
reactant | 2-trifluoromethyl-benzophenone | 20 mmol, 5.0 g | FC(C1=C(C(=O)C2=CC=CC=C2)C=CC=C1)(F)F | C14H9F3O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N,N-Diisopropyl-3-(2-trifluoromethylphenyl)-3-phenylpropenamide | C(C)(C)N(C(C=C(C1=CC=CC=C1)C1=C(C=CC=C1)C(F)(F)F)=O)C(C)C | C22H24F3NO
